### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/Weierstrass): elliptic curves with specified j-invariant

### PR DESCRIPTION
**Pull request by acmepjz**
Main changes:

- [x] Define specific Weierstrass curves, whose j-invariants should be 0, 1728, or ≠ 0 and 1728.
- [x] Prove the quantities c₄, Δ and j for them (whenever they are defined).
- [x] Define an elliptic curve from an element j in a field, whose j-invariant is equal to j.
- [x] Generalize `Inhabited (EllipticCurve ℚ)` to `Inhabited (EllipticCurve F)` for any field `F` (computable if `F` has `DecidableEq`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 1]
```diff
@@ -181,6 +181,54 @@ lemma c_relation : 1728 * W.Δ = W.c₄ ^ 3 - W.c₆ ^ 2 := by
...
+  simp only [ofJInvariant1728, c₄, b₂, b₄]
+  ring1
+
+lemma ofJInvariant1728_Δ : (ofJInvariant1728 R).Δ = -64 := by
+  simp only [ofJInvariant1728, Δ, b₂, b₄, b₆, b₈]
+  ring1
+
+end ModelsWithJInvariant_0_1728
+
+section ModelsWithJInvariant
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:214]: I think this section and the previous section can be merged. Can you tell me why the particular curves with j-invariant 0 and 1728 are so interesting that they deserve definitions by themselves? Why is it that we care about their `c\_4` and `\Delta` (and not other quantities like `c\_6`)?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 2]
```diff
@@ -181,6 +181,54 @@ lemma c_relation : 1728 * W.Δ = W.c₄ ^ 3 - W.c₆ ^ 2 := by
 
 end Quantity
 
+section ModelsWithJInvariant_0_1728
+
+variable (R : Type u) [CommRing R]
+
+/-- The Weierstrass curve $Y^2 + Y = X^3$. -/
+def ofJInvariant0 : WeierstrassCurve R :=
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:189]: The j-invariant in this file is called `j` rather than `jInvariant`, but I think `jInvariant` is also good as long as we're consistent. I guess you should either change this to `J`, or rename all other existing instances of `j` into `jInvariant` (or even something funny like `\MiJ` for italics). What do you think?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 3]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+        rw [calc (27 : R) = (3 : R) ^ 3 := by norm_num]
+        simp only [mul_neg, neg_mul, neg_neg]
+        exact pow_mul_pow_eq_one 3 (mul_invOf_self (3 : R))
+      , by
+        rw [calc (27 : R) = (3 : R) ^ 3 := by norm_num]
+        simp only [mul_neg, neg_mul, neg_neg]
+        exact pow_mul_pow_eq_one 3 (invOf_mul_self (3 : R))
+    ⟩,
+    by rw [WeierstrassCurve.ofJInvariant0_Δ R]
+  ⟩
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:988]: The weird convention in mathlib is to not have brackets alone in a line, and commas at the end of lines rather than at the beginning.
```suggestion
/-- The elliptic curve $Y^2 + Y = X^3$ when $3$ is invertible. -/
def ofJInvariant0 [Invertible (3 : R)] : EllipticCurve R :=
  ⟨WeierstrassCurve.ofJInvariant0 R,
    ⟨-27, -⅟3 ^ 3,
      by rw [neg_mul_neg, show (27 : R) = 3 ^ 3 by norm_num1,
        pow_mul_pow_eq_one 3 <| mul_invOf_self 3],
      by rw [neg_mul_neg, show (27 : R) = 3 ^ 3 by norm_num1,
        pow_mul_pow_eq_one 3 <| invOf_mul_self 3]⟩,
    by rw [WeierstrassCurve.ofJInvariant0_Δ R]⟩
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 4]
```diff
@@ -181,6 +181,54 @@ lemma c_relation : 1728 * W.Δ = W.c₄ ^ 3 - W.c₆ ^ 2 := by
...
+
+variable (R : Type u) [CommRing R]
+
+/-- The Weierstrass curve $Y^2 + Y = X^3$. -/
+def ofJInvariant0 : WeierstrassCurve R :=
+  ⟨0, 0, 1, 0, 0⟩
+
+lemma ofJInvariant0_c₄ : (ofJInvariant0 R).c₄ = 0 := by
+  simp only [ofJInvariant0, c₄, b₂, b₄]
+  ring1
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:194]: These can probably be `rw`'s and `norm_num1`'s (same with the three other instances below).
```suggestion
lemma ofJInvariant0_c₄ : (ofJInvariant0 R).c₄ = 0 := by
  rw [ofJInvariant0, c₄, b₂, b₄]
  norm_num1
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 5]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+        rw [calc (64 : R) = (2 : R) ^ 6 := by norm_num]
+        simp only [mul_neg, neg_mul, neg_neg]
+        exact pow_mul_pow_eq_one 6 (mul_invOf_self (2 : R))
+      , by
+        rw [calc (64 : R) = (2 : R) ^ 6 := by norm_num]
+        simp only [mul_neg, neg_mul, neg_neg]
+        exact pow_mul_pow_eq_one 6 (invOf_mul_self (2 : R))
+    ⟩,
+    by rw [WeierstrassCurve.ofJInvariant1728_Δ R]
+  ⟩
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1009]: Same here
```suggestion
/-- The elliptic curve $Y^2 = X^3 + X$ when $2$ is invertible. -/
def ofJInvariant1728 [Invertible (2 : R)] : EllipticCurve R :=
  ⟨WeierstrassCurve.ofJInvariant1728 R,
    ⟨-64, -⅟2 ^ 6,
      by rw [neg_mul_neg, show (64 : R) = 2 ^ 6 by norm_num1,
        pow_mul_pow_eq_one 6 <| mul_invOf_self 2],
      by rw [neg_mul_neg, show (64 : R) = 2 ^ 6 by norm_num1,
        pow_mul_pow_eq_one 6 <| invOf_mul_self 2]⟩,
    by rw [WeierstrassCurve.ofJInvariant1728_Δ R]⟩
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 6]
```diff
@@ -181,6 +181,54 @@ lemma c_relation : 1728 * W.Δ = W.c₄ ^ 3 - W.c₆ ^ 2 := by
...
+  simp only [ofJInvariant1728, Δ, b₂, b₄, b₆, b₈]
+  ring1
+
+end ModelsWithJInvariant_0_1728
+
+section ModelsWithJInvariant
+
+variable {R : Type u} [CommRing R] (j : R)
+
+/-- The Weierstrass curve $Y^2 + (j-1728)XY = X^3 - 36(j-1728)^3X - (j-1728)^5$. -/
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:218]: I usually have spaces around `-` even when they're bracketed up together.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 7]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+  ⟩
+
+lemma ofJInvariant1728_j [Invertible (2 : R)] : (ofJInvariant1728 R).j = 1728 := by
+  simp only [j, ofJInvariant1728, WeierstrassCurve.ofJInvariant1728_c₄]
+  field_simp
+  ring1
+
+end ModelsWithJInvariant_0_1728
+
+section ModelsWithJInvariant'
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1018]: Again I think there's no harm in merging the sections until you need to change the base ring to a field.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 8]
```diff
@@ -181,6 +181,54 @@ lemma c_relation : 1728 * W.Δ = W.c₄ ^ 3 - W.c₆ ^ 2 := by
 
 end Quantity
 
+section ModelsWithJInvariant_0_1728
+
+variable (R : Type u) [CommRing R]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:186]: You don't need to reinstantiate everything if you want to make `R` explicit - you can just do `variable (R)`. Notice that in every goal now we have two `CommRing R`'s.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 9]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+        mul_comm ((j - 1728) ^ 9) (⅟j ^ 2), ←mul_assoc, mul_assoc,
+        pow_mul_pow_eq_one 2 (mul_invOf_self _),
+        pow_mul_pow_eq_one 9 (mul_invOf_self _), mul_one]
+      , by rw [←mul_assoc, mul_assoc (⅟j ^ 2) (⅟(j - 1728) ^ 9) (j ^ 2),
+        mul_comm (⅟(j - 1728) ^ 9) (j ^ 2), ←mul_assoc, mul_assoc,
+        pow_mul_pow_eq_one 2 (invOf_mul_self _),
+        pow_mul_pow_eq_one 9 (invOf_mul_self _), mul_one]
+    ⟩,
+    by rw [WeierstrassCurve.ofJInvariant_Δ j]
+  ⟩
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1038]: Same here
```suggestion
/-- The elliptic curve $Y^2 + (j-1728)XY = X^3 - 36(j-1728)^3X - (j-1728)^5$
when $j$ and $j-1728$ are both invertible. -/
def ofJInvariant' : EllipticCurve R :=
  ⟨WeierstrassCurve.ofJInvariant j,
    ⟨j ^ 2 * (j - 1728) ^ 9, ⅟j ^ 2 * ⅟(j - 1728) ^ 9,
      by rw [← mul_assoc, mul_assoc (j ^ 2), mul_comm (_ ^ 9), ← mul_assoc, mul_assoc,
        pow_mul_pow_eq_one 2 (mul_invOf_self _), pow_mul_pow_eq_one 9 (mul_invOf_self _), mul_one],
      by rw [← mul_assoc, mul_assoc (⅟j ^ 2), mul_comm (_ ^ 9), ← mul_assoc, mul_assoc,
        pow_mul_pow_eq_one 2 (invOf_mul_self _), pow_mul_pow_eq_one 9 (invOf_mul_self _), mul_one]⟩,
    by rw [WeierstrassCurve.ofJInvariant_Δ j]⟩
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 10]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+      , by
+        rw [calc (27 : R) = (3 : R) ^ 3 := by norm_num]
+        simp only [mul_neg, neg_mul, neg_neg]
+        exact pow_mul_pow_eq_one 3 (invOf_mul_self (3 : R))
+    ⟩,
+    by rw [WeierstrassCurve.ofJInvariant0_Δ R]
+  ⟩
+
+lemma ofJInvariant0_j [Invertible (3 : R)] : (ofJInvariant0 R).j = 0 := by
+  simp only [j, ofJInvariant0, WeierstrassCurve.ofJInvariant0_c₄]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:991]: A lot of these can probably be `rw`'s. I also find it strange why `ring1` works here but not `norm_num1`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 11]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+        simp only [mul_neg, neg_mul, neg_neg]
+        exact pow_mul_pow_eq_one 6 (invOf_mul_self (2 : R))
+    ⟩,
+    by rw [WeierstrassCurve.ofJInvariant1728_Δ R]
+  ⟩
+
+lemma ofJInvariant1728_j [Invertible (2 : R)] : (ofJInvariant1728 R).j = 1728 := by
+  simp only [j, ofJInvariant1728, WeierstrassCurve.ofJInvariant1728_c₄]
+  field_simp
+  ring1
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1014]: Slightly shorter?
```suggestion
lemma ofJInvariant1728_j [Invertible (2 : R)] : (ofJInvariant1728 R).j = 1728 := by
  field_simp [j, ofJInvariant1728, WeierstrassCurve.ofJInvariant1728_c₄]
  ring1
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 12]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+        pow_mul_pow_eq_one 9 (invOf_mul_self _), mul_one]
+    ⟩,
+    by rw [WeierstrassCurve.ofJInvariant_Δ j]
+  ⟩
+
+lemma ofJInvariant'_j : (ofJInvariant' j).j = j := by
+  simp only [EllipticCurve.j, ofJInvariant', WeierstrassCurve.ofJInvariant_c₄]
+  field_simp
+  -- do not use 'ring1' otherwise (j - 1728) ^ 9 will be expanded
+  rw [mul_pow, ←pow_mul, ←mul_assoc, ←pow_succ]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1044]: I think expanding is probably fine? It's pretty much instant for me.
```suggestion
lemma ofJInvariant'_j : (ofJInvariant' j).j = j := by
  field_simp [EllipticCurve.j, ofJInvariant', WeierstrassCurve.ofJInvariant_c₄]
  ring1
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 13]
```diff
@@ -918,6 +966,146 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+
+end ModelsWithJInvariant'
+
+section ModelsWithJInvariant
+
+variable {F : Type u} [Field F] (j : F)
+
+/-- For any element $j$ of a field $F$, there exists an elliptic curve over $F$
+with $j$-invariant equal to $j$. Its coefficients are given explicitly. -/
+noncomputable def ofJInvariant : EllipticCurve F := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1054]: I think given this is a `def`, it's probably wise not to have it in tactic mode, although it doesn't seem like your proof has any dangerous tactics (e.g. `rw` - in your case is only used to prove things are invertible, which is fine). I'll think of how to make this into term mode when I have time.

**Review by Multramate — COMMENTED** [review]
I've added some comments, mostly stylistic based on old conventions in the same file.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:988]: Cool. Are there more compact ways to show -27 is invertible?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 13 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1030]: In fact in my previous attempt there is no such `def`, but only a theorem which states that `... (j : F) : \exists E : EllipticCurve, E.j = j`. A disadvantage is that you can't get more information of such `E`, compared to current implementation. This is what `coefficients are given explicitly` means.

> I'll think of how to make this into term mode when I have time.

Thanks.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:189]: I think it's good. Later I'll try to rename all `onJInvariant` to `ofJ` and see if it's better.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 3 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: This works:
```
def ofJ0 [Invertible (3 : R)] : EllipticCurve R :=
  have := invertibleNeg (3 ^ 3 : R)
  ⟨WeierstrassCurve.ofJ0 R, unitOfInvertible (-3 ^ 3 : R),
    by rw [unitOfInvertible_val, WeierstrassCurve.ofJ0_Δ R]; norm_num1⟩
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: Sounds good! I think you can remove `section` and `end` as well.

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > Sounds good! I think you can remove `section` and `end` as well.

But I think this will make the parameter `R` in the `ofJ` explicit?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > The lemmas `ofJ0_j`, `ofJ1728_j`, and `ofJ'_j` might need `unitOfInvertible_val`, and with this can mostly be `norm_num1`'ed now.

I cannot make `ofJ1728_j` and `ofJ'_j` work, `rw` refuses to rewrite the result obtained from `unitOfInvertible_val`, although they look the same on the info panel.

**Comment by acmepjz** [comment]
Now I got strange error again: `rw` refuses to rewrite the result obtained from `unitOfInvertible_val`, although they look the same on the info panel.

**Review by Multramate — COMMENTED** [review]
I finally managed to convert `ofJ` into term mode.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 14]
```diff
@@ -918,6 +971,113 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+  · by_cases hj1728 : j = 1728
+    · have : Invertible (2 : F) := by
+        apply invertibleOfNonzero
+        intro h
+        rw [calc (1728 : F) = (2 : F) * (864 : F) := by norm_num, h, zero_mul] at hj1728
+        exact hj0 hj1728
+      exact ofJ1728 F
+    · have : Invertible j := invertibleOfNonzero hj0
+      have : Invertible (j - 1728) := invertibleOfNonzero (Iff.mpr sub_ne_zero hj1728)
+      exact ofJ' j
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1047]: > Here is the term mode version using `if then else`, but would require `Classical`: ...

Do you think it's a good idea to just extract several `have`s in my previous proof as private lemmas? In this way the `Classical` is not necessary and the `def` can be written as term mode (while the proof of private lemmas themself still use tactic mode, just like your `two_or_three_ne_zero`).

[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1047]: I think your lemma can be rewrite as `(3 : F) = 0 -> (2 : F) ≠ 0`, perhaps in this way the `Classical` is not needed?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 15]
```diff
@@ -918,6 +971,113 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+        intro h
+        rw [calc (1728 : F) = (2 : F) * (864 : F) := by norm_num, h, zero_mul] at hj1728
+        exact hj0 hj1728
+      simp only [ofJ, hj0, dite_false]
+      simp only [hj1728, dite_true]
+      convert ofJ1728_j F
+    · have : Invertible j := invertibleOfNonzero hj0
+      have : Invertible (j - 1728) := invertibleOfNonzero (Iff.mpr sub_ne_zero hj1728)
+      simp only [ofJ, hj0, hj1728, dite_false]
+      convert ofJ'_j j
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > I extracted a few lemmas I think are useful API relating `ofJ`, `ofJ0`, `ofJ1728`, and `ofJ'`, such as: ...

I think maybe it's a good idea; let me check them later.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: > In this way the `Classical` is not necessary

No, it does not work 😅 the `if h0 : j = 0 then` itself requires `Classical`, whereas `by_cases hj0 : j = 0` does not require, although they produce the same proof term. Weird.

> `private lemma two_or_three_ne_zero : (2 : F) ≠ 0 ∨ (3 : F) ≠ 0`

More generally, if `R` is a non-trivial ring, `a` and `b` are natural numbers such that
`gcd(a, b) = 1`, then `(a : R) = 0` implies `(b : R) ≠ 0` (otherwise `(1 : R) = 0` contradiction). Do you think this is a useful lemma? Or perhaps it is already in mathlib?

[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean]: Yeah, I think it's a nice lemma to have in mathlib, although I'm not sure where to put it! I thought someone would have written it already but I can't seem to find it anywhere, so you could try to make a quick PR and let others decide...

**Comment by acmepjz** [comment]
Is it a good idea to remove remaining `noncomputable` in this file, as many as possible, by adding `DecidableEq` instance (possibly in another PR)? This has a disadvantage then it introduces `classical` if the relevant ring does not have `DecidableEq`.

**Comment by Multramate** [comment]
> Is it a good idea to remove remaining `noncomputable` in this file, as many as possible, by adding `DecidableEq` instance (possibly in another PR)? This has a disadvantage then it introduces `classical` if the relevant ring does not have `DecidableEq`.

I don't know anything about this. All I know for the inhabited instance is that we should have 37 instead of 42. 😉

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 16]
```diff
@@ -57,6 +62,7 @@ splitting field of `R` are precisely the $X$-coordinates of the non-zero 2-torsi
  * `EllipticCurve.nonsingular`: an elliptic curve is nonsingular at every point.
  * `EllipticCurve.variableChange_j`: the j-invariant of an elliptic curve is invariant under an
     admissible linear change of variables.
+ * `EllipticCurve.ofJ_j`: the proof that the $j$-invariant of `EllipticCurve.ofJ` is equal to $j$.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:65]: To be consistent with the other statement descriptions:
```suggestion
 * `EllipticCurve.ofJ_j`: the $j$-invariant of `EllipticCurve.ofJ` is equal to $j$.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 17]
```diff
@@ -915,6 +962,128 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+lemma ofJ'_j (j : R) [Invertible j] [Invertible (j - 1728)] : (ofJ' j).j = j := by
+  field_simp [EllipticCurve.j, ofJ', @unitOfInvertible_val _ _ _ <| invertibleMul _ _,
+    WeierstrassCurve.ofJ_c₄]
+  ring1
+
+-- TODO: move this lemma to suitable place in mathlib4 if it's useful by others
+private lemma ne_zero_or_ne_zero_of_nat_gcd_eq_one [Nontrivial R] {a b : ℕ} (h : a.gcd b = 1) :
+    (a : R) ≠ 0 ∨ (b : R) ≠ 0 :=
+  not_or_of_imp <| fun x y => not_isCoprime_zero_zero (R := R) <| by
+    simpa only [map_natCast, x, y] using IsCoprime.map (Nat.coprime.isCoprime h) (Int.castRingHom R)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1011]: Yeah, I think this would be useful to others, but you'd have to find a good file high enough to put it in.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 18]
```diff
@@ -915,6 +962,128 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+
+variable {F : Type u} [Field F] (j : F)
+
+private lemma two_or_three_ne_zero : (2 : F) ≠ 0 ∨ (3 : F) ≠ 0 :=
+  ne_zero_or_ne_zero_of_nat_gcd_eq_one (show Nat.gcd 2 3 = 1 from by norm_num1)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1016]:
```suggestion
private lemma two_or_three_ne_zero : (2 : F) ≠ 0 ∨ (3 : F) ≠ 0 :=
  ne_zero_or_ne_zero_of_nat_gcd_eq_one (show Nat.gcd 2 3 = 1 by norm_num1)
```

**Review by Multramate — APPROVED** [review]

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean (hunk 17 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1011]: > but you'd have to find a good file high enough to put it in.
Yes, but I'm not sure which file this lemma fits in. Maybe in the same file as `IsCoprime`, just after `not_isCoprime_zero_zero` since this is a direct corollary of it?

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1011]: Yep, sounds good to me!

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1011]: Should I change that file in this PR?

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1011]: Sure!

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 19]
```diff
@@ -915,6 +962,122 @@ lemma nonsingular [Nontrivial R] {x y : R} (h : E.equation x y) : E.nonsingular
...
+  if h0 : j = 0 then
+    if h3 : (3 : F) = 0 then @ofJ1728 _ _ <| invertibleOfNonzero <|
+      two_or_three_ne_zero.neg_resolve_right h3
+    else @ofJ0 _ _ <| invertibleOfNonzero h3
+  else if h1728 : j = 1728 then
+    @ofJ1728 _ _ <| invertibleOfNonzero fun h => h0 <|
+    by rw [h1728, show (1728 : F) = 2 * 864 by norm_num1, h, zero_mul]
+  else @ofJ' _ _ j (invertibleOfNonzero h0) (invertibleOfNonzero <| sub_ne_zero_of_ne h1728)
+
+lemma ofJ_0_of_three_ne_zero (h3 : (3 : F) ≠ 0) : ofJ 0 = @ofJ0 _ _ (invertibleOfNonzero h3) := by
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:1028]: What about using [NeZero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/NeZero.html#NeZero) instead of `h3`? Similarly elsewhere.

**Comment by acmepjz** [comment]
@riccardobrasca I tried `NeZero` but I think the resulting code looks weird. We don't have `NeZero -> Invertible` automatic conversion even if it's a field. Also we don't have `EqZero`. So now the code is a mix of typeclass and explicit assumptions.

**Comment by riccardobrasca** [comment]
> @riccardobrasca I tried `NeZero` but I think the resulting code looks weird. We don't have `NeZero -> Invertible` automatic conversion even if it's a field. Also we don't have `EqZero`. So now the code is a mix of typeclass and explicit assumptions.

OK, no problem if it becomes a mess. Thanks!

bors merge

**Comment by riccardobrasca** [comment]
> @riccardobrasca I tried `NeZero` but I think the resulting code looks weird. We don't have `NeZero -> Invertible` automatic conversion even if it's a field. Also we don't have `EqZero`. So now the code is a mix of typeclass and explicit assumptions.

OK, no problem if it becomes a mess. Thanks!

bors merge
